US03950380
By replacing in Example 1, step G, 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid with 5-chlorosulfonyl-4-phenyl-3-(3-thenyloxy)benzoic acid, and following the procedure described, 4-phenyl-5-sulfamyl-3-(3-thenyloxy)-benzoic acid is obtained with a melting point of 222°-223° C.

reactant | 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C20H16ClNO4S
reactant | 5-chlorosulfonyl-4-phenyl-3-(3-thenyloxy)benzoic acid | ClS(=O)(=O)C=1C(=C(C=C(C(=O)O)C1)OCC1=CSC=C1)C1=CC=CC=C1 | C18H13ClO5S2
product | 4-phenyl-5-sulfamyl-3-(3-thenyloxy)-benzoic acid | C1(=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)OCC1=CSC=C1 | C18H15NO5S2
